US05723450
2-Chloro-3-bromo-4-(cis-4-phenylcyclohexylamino)-pyridine
2.27 g (10 mmol) of 2,4-dichloro-3-bromopyridine, 2.6 g (15 mmol) of cis-4-phenylcyclohexylamine and 0.1 g of ammonium chloride are heated at 120° C. for 10 hours in 10 ml of N-methylpyrrolidone. After cooling, saturated sodium hydrogencarbonate solution is added and the reaction product is extracted with ethyl acetate. Purification is carried out by column chromatography. Yield: 1.9 g (52%); m.p. 105° C.

reactant | 2,4-dichloro-3-bromopyridine | 10 mmol, 2.27 g | ClC1=NC=CC(=C1Br)Cl | C5H2BrCl2N
reactant | cis-4-phenylcyclohexylamine | 15 mmol, 2.6 g | C1(=CC=CC=C1)[C@H]1CC[C@H](CC1)N | C12H17N
reactant | ammonium chloride | 0.1 g | [Cl-].[NH4+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 2-Chloro-3-bromo-4-(cis-4-phenylcyclohexylamino)-pyridine | ClC1=NC=CC(=C1Br)N[C@@H]1CC[C@@H](CC1)C1=CC=CC=C1 | C17H18BrClN2
